US05321135
Synthesis of (R)-(E)-2-(3,4,5-trimethoxybenzylidene)-3-[1-(3,4,5-trimethoxyphenyl)-methyl]butanolide:
A solution of (R)-3-[1-(3,4,5-trimethoxyphenyl)-methyl]butanolide [10.52 g, 0.04 mol; K. Lalami, D. Dhai, and E. Brown, Heterocycles, 27, 1131 (1988)] and 3,4,5-trimethoxybenzaldehyde (11.4 g, 0.058 mol) in toluene (150 ml) was cooled to 0° C. under an argon stream. The solution was added with 4.0 g of sodium hydride (60%, 0.1 mol) and 0.15 ml (0.0037 mol) of methanol, followed by stirring at room temperature for 45 hours. The reaction mixture was ice-cooled and then added with 100 ml of 2N-HCl. After the removal of the water layer, the organic layer was washed successively with water, saturated NaHCO3 and saturated NaCl and then dried over anhydrous magnesium sulfate. The solvent was distilled off. The residue thus obtained (20 g) was purified by column chromatography on a silica gel column (silica gel: "MERCK #9385", 500 g, eluent: 1:2 mixed solvent of ethyl acetate and hexane), whereby 5.71 g of the title compound were obtained as pale yellow oil (yield: 33%). [α]27D : -75.64° (C=0.55, CHCl3)

reactant | (R)-3-[1-(3,4,5-trimethoxyphenyl)-methyl]butanolide | 0.04 mol, 10.52 g | COC=1C=C(C=C(C1OC)OC)C[C@@H]1CC(=O)OC1 | C14H18O5
reactant | 3,4,5-trimethoxybenzaldehyde | 0.058 mol, 11.4 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | sodium hydride | 0.1 mol, 4.0 g | [H-].[Na+]
reactant | methanol | 0.0037 mol, 0.15 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-(E)-2-(3,4,5-trimethoxybenzylidene)-3-[1-(3,4,5-trimethoxyphenyl)-methyl]butanolide | 5.71 g | COC=1C=C(\C=C/2\C(=O)OC[C@@H]2CC2=CC(=C(C(=C2)OC)OC)OC)C=C(C1OC)OC | C24H28O8
